US04054659
A mixture of 1.4 g of 5,7-dibenzyloxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline, 0.7 g of platinum dioxide, 100 ml of a hydrochloric acid-ethanol solution (the content of hydrochloric acid: 9%) and 50 ml of ethanol is shaken at 25° C in hydrogen atmosphere. After 150 ml of hydrogen are absorbed, the catalyst is removed by filtration. The filtrate is evaporated to remove solvent, whereby a mixture of 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline hydrochloride and 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride is obtained. This mixture is recrystallized 33 times from ethanol, whereby 0.3 g of 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-1,2,3,4-tetrahydrolsoquinoline hydrochloride is obtained. Yield: 40% The physiocochemical properties of this product are identical with those of the compound obtained in Example 1.

reactant | 5,7-dibenzyloxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline | 1.4 g | C(C1=CC=CC=C1)OC1=C2C=CN=C(C2=CC(=C1)OCC1=CC=CC=C1)CC1=CC(=C(C(=C1)OC)OC)OC | C33H31NO5
reactant | hydrochloric acid ethanol | 100 ml | Cl.C(C)O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 0.7 g | [Pt](=O)=O
product | 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.OC1=C2CCNC(C2=CC(=C1)O)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H23NO5.ClH/c1-23-17-7-11(8-18(24-2)19(17)25-3)6-15-14-9-12(21)10-16(22)13(14)4-5-20-15;/h7-10,15,20-22H,4-6H2,1-3H3;1H
